US07060827B2
In a like manner to the preparation of 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine, 2,4-dichloro-5-fluoropyrimidine and 7-amino-1-tetralone were reacted to provide 2-chloro-5-fluoro-N4-(1,2,3,4-tetrahydro-1-oxonaphthalen-7-yl)-4-pyrimidineamine. 1H NMR (DMSO-d6): δ 10.08 (s, 1H), 8.31 (d, 1H, J=3.3 Hz), 8.15 (d, 1H, J=2.4 Hz), 7.82 (dd, 1H, J=2.4 and 8.1 Hz), 7.36 (d, 1H, J=8.1 Hz), 2.91 (t, 2H, J=6.0 Hz), 2.59 (t, 2H, J=6.0 Hz), 2.07–1.98 (m, 2H); LCMS: purity: 93%; MS (m/e): 294(MH+)

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 7-amino-1-tetralone | NC1=CC=C2CCCC(C2=C1)=O | C10H11NO
product | 2-chloro-5-fluoro-N4-(1,2,3,4-tetrahydro-1-oxonaphthalen-7-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC=C2CCCC(C2=C1)=O)F | C14H11ClFN3O
